US08389511B2
tert-Butyl (3R,4R)-3,4-dihydroxy-4-phenylpiperidine-1-carboxylate
To a solution of potassium osmate (VI) 2 hydrate (8.0 g), (DHQD)2PHAL (14.2 g), potassium carbonate (379 g), potassium hexacyanoferrate (III) (903 g) in t-butanol (4.8 L) and water (4.8 L) was added methenesulfonamide (73.4 g) at room temperature. Then, tert-butyl 4-phenyl-3,6-dihydropyridine-1(2H)-carboxylate (200 g) was added thereto in an ice-bath, and the mixture was stirred for 2 hours. The mixture was further stirred at room temperature for 12 hours, and thereto was added methylene chloride (7.0 L) for separation to give the organic layer. The aqueous layer was washed twice with methylene chloride, and the obtained organic layers were combined, washed with 2M aqueous potassium hydroxide solution, dried over anhydrous sodium sulfate, and the solvent was removed by evaporation under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to give the title compound (215.5 g).

reactant | potassium carbonate | 379 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-phenyl-3,6-dihydropyridine-1(2H)-carboxylate | 200 g | C1(=CC=CC=C1)C=1CCN(CC1)C(=O)OC(C)(C)C | C16H21NO2
reactant | methylene chloride | 7.0 L | C(Cl)Cl | CH2Cl2
reactant | water | 4.8 L | O | H2O
solvent | t-butanol | 4.8 L | C(C)(C)(C)O | C4H10O
catalyst | potassium hexacyanoferrate (III) | 903 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[K+].[K+].[K+].[Fe+3]
catalyst | (DHQD)2PHAL | 14.2 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
product | tert-Butyl (3R,4R)-3,4-dihydroxy-4-phenylpiperidine-1-carboxylate | 215.5 g | O[C@@H]1CN(CC[C@]1(C1=CC=CC=C1)O)C(=O)OC(C)(C)C | C16H23NO4
